US04420479
1-(Thiazin-2-yl)-2-amino-6-(α-dichloromethylenebenzyl)benzimidazole.
A solution of 1.0 g of 1-(thiazin-2-yl)-2-amino-6-(α-methylenebenzyl)benzimidazole in 50 ml. of tetrahydrofuran containing 500 mg. of N-chlorosuccinimide stood at room temperature for twelve hours. A small amount of solid precipitate was removed by filtration. An additional 500 mg. portion of N-chlorosuccinimide was added to the filtrate and the solution was stirred for six hours at room temperature. Another 500 mg. portion of N-chlorosuccinimide was then added to the reaction mixture and stirring was continued for twelve hours. The white precipitate which had formed was collected by filtration and air dried to give 640 mg. (57%) of 1-(thiazin-2-yl)-2-amino-6-(α-dichloromethylenebenzyl)benzimidazole hydrochloride. M.P. 214°-217° C.

reactant | 1-(thiazin-2-yl)-2-amino-6-(α-methylenebenzyl)benzimidazole | 1.0 g | S1N(C=CC=C1)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=C)N | C19H16N4S
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 1-(thiazin-2-yl)-2-amino-6-(α-dichloromethylenebenzyl)benzimidazole hydrochloride | Cl.S1N(C=CC=C1)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=C(Cl)Cl)N
solvent | tetrahydrofuran | 500 mg | O1CCCC1 | C4H8O
product | 1-(Thiazin-2-yl)-2-amino-6-(α-dichloromethylenebenzyl)benzimidazole | S1N(C=CC=C1)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=C(Cl)Cl)N | C19H14Cl2N4S
